US05631373
N-(5'-Chloro-4'-methyl-2'-nitrophenyl)glycine sodium salt.
To a stirred solution of 2-chloro-4-fluoro-5-nitrotoluene (2.080 g, 10.97 mmol, as prepared above) in DMF (11.0 mL) at 70° C., was added dropwise, a solution of sodium glycinate (1.065 g, 10.97 mmol, Aldrich, used as received) in water (11.0 mL). The resulting suspension was stirred overnight at 70° C., cooled to room temperature, and the resulting red solid was filtered, washed with acetone (35 mL), and dried under vacuum to give 1.005 g (37%) of the pure (1H NMR) title compound as a red powder; 1H NMR (DMSO-d6): δ2.184 (s, 3H), 3.396 (d, 2H, J=4.2 Hz), 6.852 (s, 1H), 7.991 (s, 1H), 8.671 (s, 1H).

reactant | 2-chloro-4-fluoro-5-nitrotoluene | 10.97 mmol, 2.080 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5ClFNO2
reactant | sodium glycinate | 10.97 mmol, 1.065 g | NCC(=O)[O-].[Na+]
solvent | DMF | 11.0 mL | CN(C)C=O | C3H7NO
solvent | water | 11.0 mL | O | H2O
product | N-(5'-Chloro-4'-methyl-2'-nitrophenyl)glycine sodium salt | [Na+].ClC=1C(=CC(=C(C1)NCC(=O)[O-])[N+](=O)[O-])C | InChI=1S/C9H9ClN2O4.Na/c1-5-2-8(12(15)16)7(3-6(5)10)11-4-9(13)14;/h2-3,11H,4H2,1H3,(H,13,14);/q;+1/p-1
